US07820665B2
Step 1. 5-bromo-2,3-dimethoxypyridine
To a 100 mL round-bottomed flask was added 2,3-dimethoxypyridine (2 mL, 15 mmol, Alfa Aesar, Ward Hill, Mass.), CH2Cl2 (30 mL), and bromine (0.7 mL, 14 mmol). The reaction mixture was stirred at rt for 16 h. The reaction mixture was then diluted with sat. NaHCO3 (30 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with sat. NaCl (20 mL), dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (50% CH2Cl2/hexanes) afforded the title compound (1.98 g, 60%). MS (ESI, positive ion) m/z: 218 (M(79Br)+1).

reactant | 2,3-dimethoxypyridine | 15 mmol, 2 mL | COC1=NC=CC=C1OC | C7H9NO2
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
reactant | bromine | 14 mmol, 0.7 mL | BrBr | Br2
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
product | 5-bromo-2,3-dimethoxypyridine | 1.98 g, 60% | BrC=1C=C(C(=NC1)OC)OC | C7H8BrNO2
